US06872744B2
A solution of 6-methanesulfonyl-2-methyl-1H-indole (207 mg, 1 mmol) in 6 mL of hexafluoroisopropanol was treated with 4-fluorothiophenol (2 mmol) followed by addition of PIFA (1.5 mmol). The dark colored solution was stirred for 30 minutes followed by partitioning between EtOAc and water. Purification by TLC (2:1 hexane/EtOAc) afforded 145 mg of 3-(4-fluoro-phenylsulfanyl)-6-methanesulfonyl-2-methyl-1H-indole, 101, MS: 336 ([M+H]+).

reactant | 6-methanesulfonyl-2-methyl-1H-indole | 1 mmol, 207 mg | CS(=O)(=O)C1=CC=C2C=C(NC2=C1)C | C10H11NO2S
reactant | 4-fluorothiophenol | 2 mmol | FC1=CC=C(C=C1)S | C6H5FS
reactant | PIFA | 1.5 mmol | C1=CC=C(C=C1)I(OC(=O)C(F)(F)F)OC(=O)C(F)(F)F | C10H5F6IO4
solvent | hexafluoroisopropanol | 6 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | 3-(4-fluoro-phenylsulfanyl)-6-methanesulfonyl-2-methyl-1H-indole | 145 mg | FC1=CC=C(C=C1)SC1=C(NC2=CC(=CC=C12)S(=O)(=O)C)C | C16H14FNO2S2
